US08580794B2
trans-methyl 4-((2-nitro-4-sulfamoylphenylamino)methyl)cyclohexanecarboxylate
To 4-fluoro-3-nitrobenzenesulfonamide (0.265 g) and trans-methyl 4-(aminomethyl)cyclohexanecarboxylate hydrochloride in tetrahydrofuran (5 mL) was added N,N-diisopropylethylamine (0.526 mL) and the reaction was stirred at room temperature. After stirring overnight the reaction was loaded onto silica gel (Reveleris 40 g) and eluted using a gradient of 0.5% to 3.5% methanol/dichloromethane over 30 minutes to provide the title compound.

reactant | 4-fluoro-3-nitrobenzenesulfonamide | 0.265 g | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
reactant | trans-methyl 4-(aminomethyl)cyclohexanecarboxylate hydrochloride | Cl.NC[C@@H]1CC[C@H](CC1)C(=O)OC
reactant | N,N-diisopropylethylamine | 0.526 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | trans-methyl 4-((2-nitro-4-sulfamoylphenylamino)methyl)cyclohexanecarboxylate | [N+](=O)([O-])C1=C(C=CC(=C1)S(N)(=O)=O)NC[C@@H]1CC[C@H](CC1)C(=O)OC | C15H21N3O6S
